Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
left breast mastitis

 
Major Surgical or Invasive Procedure:
U/S guided drainage of mastitis
 
History of Present Illness:
___ yo ___ s/p NSVD without complication on ___ who 
presented with mastitis refractory to dicloxacillin.  Patient 
noted that infant had been refusing L breast 10 days ago and 
began pumping from that breast.  Noted cracking on nipple.  7 
days PTA, patient noted erythema, induration, warmth of the left 
breast, and was seen in clinic by Dr. ___ on ___, at which 
time mastitis was
diagnosed, dicloxacillin prescribed, and a hosptial grade breast 
pump initiated.  Shortly following that visit, chills, fever to 
102.6, sweats, and drainage of pus from the nipple began.  She 
now is able to illicit only scant milk with pumping. 

 
Past Medical History:
denies
 
Social History:
lives with husband and new son

 
Physical ___:
On admission:
98.0 (repeat 103.3), 84, 118/71, 20
Gen: awake and alert, nursing infant from right breast, 
comfortable, later found to be shivering
breast: right no erythema, engorged as in nl lactation.  left 
large erythematous, indurated, TTP, fluctuant area between 7 
o'clock and 1 o'clock, with foul smelling pus able to be 
painfully expressed from nipple, no fistulae noted between ducts 
and skin, nipple cracked
abd: soft, NT, ND, FF below umbilicus
GU: scant, nl lochia

 
Brief Hospital Course:
Pt admitted to postpartum service for IV antibiotic treatment of 
mastitis refractory to PO treatment.  On admission, pt febrile 
to 102.7 with WBC of 23.1.  On day of admission, pt underwent 
u/s guided drainage of 5cc of thick greenish- whitish fluid. 
Fluid sent for gram stain and culture. Pt started on IV 
vancomycin for presumed MRSA.  Breast surgery consulted.  Pt 
underwent three additonal U/S guided drainage of abscesses while 
in house, the last on ___.  Wound cultures from ___ and 
___ proved to be positive for MRSA.  Pt also seen by ID who 
made recommendations regarding length of treatment, family 
testing, and laboratory testing to ensure resolution of 
bandemia. Pt continued to improve.  On ___, vancomycin trough 
checked and found to be subtherapeutic.  Vancomycin dose 
increased to 1.25g Q12hours.  Repeat trough on ___ found to 
be therapeutic.  Blood cultures negative.  CBC demonstrated 
resolution of bandemia.  

PICC line placed placed on ___.  Found to be in improper 
placed by CXR and readjusted.  Pt c/o chest pressure/irritation 
so PICC removed.  Initial plan was for replacement of PICC on 
___ or ___.  However, after discussion with infectious 
disease, it was determined that pt would only need IV vancomycin 
treatment for a few additional days to complete her 14D course.  
Decision was made to keep pt in house rather than risk the 
morbidity of PICC reinsertion.  Pt discharged on ___ after she 
had completed a total of 14D on IV vancomycin with several U/S 
guided drainage during her hospital course. Pt will follow up 
with Dr. ___, Dr. ___ infectious disease as an 
outpatient.   
 
Medications on Admission:
dicloxacillin 500 TID, currently day ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
mastitis, breast abscess

 
Discharge Condition:
stable

 
Discharge Instructions:
- Please call your doctor if you experience fever > 100.4, 
chills, nausea and vomiting, worsening or severe breast or 
abdominal pain, milk or pus emanating through the skin of your 
breast rather than the nipple,
heavy vaginal bleeding, chest pain, trouble breathing, or if you 

have any other questions or concerns.  Please call if you have 
increased
redness and warmth around the breast abscess, if your incision 
is 
draining pus-like or foul smelling discharge, or if your 
incision reopens. 
- No driving while taking narcotic pain 
medication as it can make you drowsy. 
- Please keep your follow-up appointments as outlined below. 

 
Followup Instructions:
___